US04317915
4-amino-5-propyl-3-thiophenecarboxylic acid ethyl ester hydrochloride
A sample of 1.50 g. (8.097 mmols) of 4-amino-5-propyl-3-thiophenecarboxylic acid was dissolved in 75 ml. absolute ethanol which had been previously saturated with gaseous hydrogen chloride. The resulting reaction was heated under reflux for 24 hours, cooled and evaporated to afford 1.43 g. (71%) of pure 4-amino-5-propyl-3-thiophenecarboxylic acid ethyl ester hydrochloride, m.p. 144° C. (dec.) after recrystallization from ethyl acetate.

reactant | 4-amino-5-propyl-3-thiophenecarboxylic acid | 8.097 mmols | NC=1C(=CSC1CCC)C(=O)O | C8H11NO2S
reactant | hydrogen chloride | Cl | ClH
reactant | ethanol | C(C)O | C2H6O
product | 4-amino-5-propyl-3-thiophenecarboxylic acid ethyl ester hydrochloride | Cl.C(C)OC(=O)C1=CSC(=C1N)CCC | InChI=1S/C10H15NO2S.ClH/c1-3-5-8-9(11)7(6-14-8)10(12)13-4-2;/h6H,3-5,11H2,1-2H3;1H
